US07291635B2
A solution of 2 mL of 1 M LAH (2 mmol) in 25 mL THF is cooled in an ice bath. 450 mg (2.07 mmol) of the title B compound, 7-carbomethoxy-4-methoxyquinoline suspended in 15 mL THF is added and allowed to stir at RT for 18 h. The mixture is quenched with saturated aqueous Na2SO4, filtered, and the filtrate dried over anhydrous MgSO4, filtered, and solvent removed to give (4-methoxyquinolin-7-yl)-methanol: 1H-NMR (CDCl3) δ 4.04 (3H, s), 4.89 (2H, s), 6.72 (1H, d, J=5.3), 7.51 (1H, d, J=8.5), 8.04 (1H, s), 8.16 (1H, d, J=8.5), 8.72 (1H, d, J=5.3).

reactant | LAH | 2 mmol, 1 M, 2 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 7-carbomethoxy-4-methoxyquinoline | C(=O)(OC)C1=CC=C2C(=CC=NC2=C1)OC | C12H11NO3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (4-methoxyquinolin-7-yl)-methanol | COC1=CC=NC2=CC(=CC=C12)CO | C11H11NO2
